US07074799B2
To a solution of 2-(4-bromo-3-nitro-phenyl)-3-(trifluoromethyl)-pyridine (0.55 mmol) in DMA (4 mL) add CuCN (0.60 mmol). Stir the mixture 4 hours at 110° C. Cool to room temperature, dilute with 20 ml of EtOAc, and filter through celite pad. Wash the filtrated with brine, dry over Na2SO4, concentrate under vacuum, and purify by flash chromatography (1:1 hexanes/EtOAc) to give 2-nitro-4(3-trifluoromethyl-pyridin-2-yl)-benzonitrile.

reactant | 2-(4-bromo-3-nitro-phenyl)-3-(trifluoromethyl)-pyridine | 0.55 mmol | BrC1=C(C=C(C=C1)C1=NC=CC=C1C(F)(F)F)[N+](=O)[O-] | C12H6BrF3N2O2
reactant | CuCN | 0.60 mmol | C(#N)[Cu]
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | 2-nitro-4(3-trifluoromethyl-pyridin-2-yl)-benzonitrile | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H6F3N3O2
